Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
Left heart catheterization ___

 
History of Present Illness:
___ with history of asthma (diagnosed at age ___, PFTs not good 
quality), CAD s/p multivessel PCI, HTN, presenting with one day 
of acute dyspnea. 

She speaks ___ only. Interpretation was provided 
by her daughter at the bedside. On night prior to presentation, 
she woke up at 3 AM with acute onset dyspnea, wheezing, chest 
tightness, and coughing. She has been having a nonproductive 
cough and dyspnea for several days prior to this. No fevers or 
chills. Patient was given albuterol inhaler with some relief. 

She had similar episode one year ago and was treated 
successfully with bronchodilator and corticosteroid therapy 
without need for diuresis. She was seen by Pulmonary and given a 
diagnosis of asthma, although she could not participate with 
PFTs to give clear diagnosis.

In the ED, initial vitals were: T97.2 88 132/77 20 100% RA. CXR 
with atelectasis without pulmonary edema or consolidation. Labs 
stable. ECG was reportedly unchanged from prior. She was given 
albuterol and ipratropium nebs x3, prednisone 60mg, and 
acetaminophen 1000mg.

On the floor, she has had some improvement in her dyspnea since 
her admission and with bronchodilator and prednisone. Still has 
ongoing nonproductive cough, wheezing, and chest tightness. Uses 
2-pillows at baseline but not able to lie supine without 
dyspnea. Endorses several episodes of PND this week with 
improvement using albuterol.
 
ROS:  
(+) Dyspnea, wheezing, nonproductive cough, chest tightness. 
Dysuria.
(-) Denies fever, chills, recent weight loss or gain. Denies 
headache. Denies chest pain. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No urinary frequency. Denies arthralgias or 
myalgias.
 
Past Medical History:
- Asthma (diagnosed ___ years ago at age ___, poor quality PFTs)
- CAD, status post inferior NSTEMI with stent placement in LCX 
and RCA in ___. NSTEMI ___. Cardiac cath ___ with two vessel 
coronary artery disease and in-stent restenosis (60%) involving 
the circumflex interrogated for significance by FFR, and found 
hemodynamically non-significant. 
- Hypertension  
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood
- s/p right eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___ 

 
Social History:
___
Family History:
Asthma in brother, daughter and grandaughter. Mother died in 
childbirth. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T97.9 BP131/60 HR93 RR18 97RA
GENERAL: Elderly woman lying 30 degrees up in bed, no acute 
distress
HEENT: Sclera aniceteric, moist mucous membranes, oral pharynx 
clear
NECK: Supple, JVP elevated to 10 cm with +HJR
HEART: Regular rate and rhythm, normal S1 S2, no murmurs
LUNG: Diffuse tight wheezing, good respiratory effort, decreased 
BS bases, no crackles or rhonchi, no use of accessory muscles
ABD:  Normal bowel sounds, soft, nontender, nondistended
GU:  No Foley
EXT:  2+ DP and ___ pulses. No lower extremity edema.
NEURO:  Alert and oriented

DISCHARGE PHYSICAL EXAM:
VSS
GENERAL: AAOx3, NAD
HEENT: Sclera aniceteric, moist mucous membranes
HEART: Regular rate and rhythm, normal S1 S2, no murmurs
LUNG: Breathing comfortably, mild expiratory wheezing, no 
crackles
ABD:  Normal bowel sounds, soft, nontender, nondistended
GU:  No Foley
EXT:  2+ DP and ___ pulses. No lower extremity edema.
NEURO:  Alert and oriented
 
Pertinent Results:
ADMISSION LABS:
___ 05:35AM BLOOD WBC-8.7 RBC-4.00* Hgb-13.0 Hct-38.4 
MCV-96 MCH-32.5* MCHC-33.9 RDW-13.5 Plt ___
___ 05:35AM BLOOD Neuts-75.3* Lymphs-13.5* Monos-4.5 
Eos-6.2* Baso-0.5
___ 05:35AM BLOOD ___ PTT-31.8 ___
___ 05:35AM BLOOD Glucose-133* UreaN-13 Creat-1.0 Na-135 
K-4.9 Cl-104 HCO3-23 AnGap-13
___ 05:35AM BLOOD CK(CPK)-247*
___ 05:35AM BLOOD CK-MB-7 cTropnT-0.05* proBNP-1106*
___ 08:00PM BLOOD CK-MB-14* MB Indx-5.8 cTropnT-0.37*
___ 07:55AM BLOOD CK-MB-11* MB Indx-5.0 cTropnT-0.26*
___ 07:55AM BLOOD Calcium-10.4* Phos-4.3 Mg-2.2

URINE:
___ 11:35PM URINE Color-Straw Appear-Clear Sp ___
___ 11:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 11:35PM URINE RBC-<1 WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1

___ CXR
New linear right lower lobe opacities likely represent 
atelectasis. Moderate cardiomegaly, stable. 

___ ECG
Sinus rhythm. Compared to the previous tracing of ___ no 
significant change from previous ST-T wave abnormalities.  

___ ECG #2
Sinus rhythm. Early R wave progression. ST-T wave abnormalities. 
Compared to the previous tracing of ___ the rate is now 
faster. ST-T wave 
abnormalities are more prominent. Otherwise, no change.  

Cardiac cath ___:
COMMENTS:     
1. Selective coronary angiography of this right dominant system 
revealed
two vessel coronary artery disease. The LMCA had a focal 10% 
stenosis.
The LAD had mild diffuse disease. The left circumflex artery had 
50%
in-stent restenosis. The RCA had a 50-60% in-stent restenosis.
2. Limited resting hemodynamics showed mildly elevated central 
aortic
blood pressure of ___ mmHg.
FINAL DIAGNOSIS:    
1. Two vessel coronary artery disease.

EKG ___:
Sinus rhythm. Early R wave progression. Consider right 
ventricular
hypertrophy. Anterolateral T wave inversions are non-specific. 
Cannot rule
out myocardial ischemia. Clinical correlation is suggested. 
Compared to the
previous tracing the rate is slower. Anterolateral ST-T wave 
changes are more
prominent.

Echocardiogram ___:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
hypokinesis to akinesis of the basal inferolateral, basal 
inferior and mid inferior walls. The remaining segments contract 
normally (LVEF = 45-50%). Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Mild to moderate (___) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is an anterior space which most likely 
represents a prominent fat pad. 
IMPRESSION: Normal biventricular cavity size with mild regional 
LV systolic dysfunction as above. Mild-moderate aortic 
regurgitation, trivial mitral and tricuspid regurgitation. 
Normal estimated pulmonary artery systolic pressure.
Compared with the findings of the prior study of ___ 
(images reviewed), the degree of aortic insufficiency may be 
slightly increased; otherwise, the findings are similar. 

MICRO:
___ 11:35 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ with history of asthma (diagnosed at age ___, PFTs 
nondiagnostic), CAD s/p MI ___ with PCI to LCx and RCA and 
NSTEMI ___, HTN, presenting with several days of cough and one 
day acute dyspnea. 

# DYSPNEA. The patient presented with shortness of breath, most 
likely due to an asthma exacerbation given preceding cough, 
wheezing, dyspnea, and history of reactive airway disease.  No 
evidence of volume overload on exam. She was treated with a 
prednisone, nebulizers, and her home asthma therapy. She was 
discharged with a prednisone taper and should follow up with 
pulmonary as an outpatient.

# CAD: Patient with significant history of CAD, s/p multivessel 
PCI to LCx and RCA in ___ and NSTEMI ___ with no intervention 
on cardiac cath. The patient denied chest pain during admission, 
but due to her shortness of breath her cardiac enzymes were 
checked.  They were found to be elevated (troponin peaked at 
0.37), and she also had EKG changes with ST depressions and T 
wave inversions. She was put on a heparin gtt and was  taken for 
cardiac cath. The catheterization did not show new coronary 
artery blockages and no arteries were stented. Echo was mostly 
unchanged from previous. She was discharged on her home cardiac 
medications with cardiology follow up. 

CHRONIC ISSUES:

# Hypertension. Continued Imdur, metoprolol. Decreased losartan 
for low pressures. 

# Constipation. Chronic issue. Continued docusate, senna, 
Miralax PRN

TRANSITIONAL ISSUES:
- The patient was discharged with a decreased dose of losartan 
for low blood pressures
- Will continue prednisone taper at home: 20mg x3 days, then 
10mg x3 days
- Increased advair dose for better asthma control

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
7. Losartan Potassium 100 mg PO DAILY 
8. Mirtazapine 15 mg PO HS 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing SOB 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Nitroglycerin SL 0.3 mg SL PRN chest pain 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma 
15. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
16. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
17. multivitamin with iron 1 tablet  oral DAILY 
18. Senna 8.6 mg PO HS:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing SOB 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
8. Mirtazapine 15 mg PO HS 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 8.6 mg PO HS:PRN constipation 
11. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg one capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/Dose 
one puff IH twice a day Disp #*15 Disk Refills:*0
13. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ ml by mouth q6h prn Refills:*0
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. multivitamin with iron 1 tablet  oral DAILY 
18. Nitroglycerin SL 0.3 mg SL PRN chest pain 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Losartan Potassium 25 mg PO DAILY 
RX *losartan [Cozaar] 25 mg one tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
21. PredniSONE 20 mg PO DAILY Duration: 6 Days 
Tapered dose - DOWN 
RX *prednisone 10 mg Two tablet(s) by mouth daily Disp #*9 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Non-ST elevation myocardial infarction
-Asthma exacerbation
-Coronary artery disease

SECONDARY:
-Hypertension
-Constipation, chronic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___. You were admitted to the hospital because of 
chest pain and shortness of breath. You were found to have a 
heart attack and asthma exacerbation. You were treated with 
blood thinners, breathing treatments, and steroids. A heart 
catheterization that looked at your arteries did not reveal any 
new blockages. An echocardiogram was similar to the previous 
study. You improved on medical therapy. Please follow up with 
your outpatient providers.

Best, 
Your ___ care team

Please follow the prednisone taper instructions:
20mg (2 pills) daily for 3 days, then 10mg (1 pill) daily for 3 
days, then stop 
 
Followup Instructions:
___